US08067448B2
(2R,3S)-2-(4-Cyano-2-methyl-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoic acid
4-fluoro-3-methyl-2-(trifluoromethyl)benzonitrile (1.0 g, 4.92 mmol) and D-theronine (703 mg, 90 mmol) were added to DMSO (15 mL). K2CO3 (3.26 g) was added to the reaction mixture and stirred at 75° C. for 24 h. The reaction mixture was cooled to room temperature and poured slowly in to a 10% citric acid solution and stirred for 10 min at room temperature. The solution was extracted with EtOAc several times to give the crude product. The crude product was chromatographed with a gradient of hexanes/EtOAc and then with EtOAc, 100% to give the final product (400 mg). 1H NMR (500 MHz, acetone-d6, δ in ppm) 7.62 (d, J=9 Hz, 1H), 6.98 (d, J=9 Hz, 1H), 5.52 (d, J=9 Hz, 1H), 4.52 (m, 1H), 4.32 (m, 1H), 2.35 (s, 3H), 1.35 (d, J=6 Hz, 3H).

reactant | 4-fluoro-3-methyl-2-(trifluoromethyl)benzonitrile | 4.92 mmol, 1.0 g | FC1=C(C(=C(C#N)C=C1)C(F)(F)F)C | C9H5F4N
reactant | D-theronine | 90 mmol, 703 mg | C1=CC(=CC=C1C[C@H](C(=O)O)N)OC2=CC=C(C=C2)O | C15H15NO4
reactant | K2CO3 | 3.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (2R,3S)-2-(4-Cyano-2-methyl-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoic acid | 400 mg | C(#N)C1=C(C(=C(C=C1)N[C@@H](C(=O)O)[C@H](C)O)C)C(F)(F)F | C13H13F3N2O3
